Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Aspirin / Naproxen / Sulfa (Sulfonamide Antibiotics) / Percocet 
/ ibuprofen / gabapentin
 
Attending: ___.
 
Chief Complaint:
Paroxysmal episodes

 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
HPI: The patient is a ___ woman PMHx atypical ductal
hyperplasia, fibromyalgia and possible lupus (unclear diagnosis
per records and patient) and recurrent paroxysmal events since
___ who presents to the ___ ED with recurrent paroxysmal
events.

Neurologic history is listed below. Regarding her current
presentation, pt reports feeling like her usual self this AM. 
She
ate breakfast uneventfully. Around 9:30a, she was preparing for 
a
neuropsychiatric appointment scheduled for today when she
received a phone call from her transportation asking if they
could pick her up sooner. She had missed two prior appointments
for neuropsychiatric testing and was concerned she may not make
an earlier ride and thus felt very stressed. She quickly tried 
to
get ready and put on sneakers. She then started to "gasp for
breath" and feel anxious and began shaking. She fell onto her
bed. Her daughter arrived who observed bilateral arm and leg
jerking, the arms were jerking moreso than the legs (seemed
asynchronous when I asked daughter to act out). There was no eye
deviation, urinary incontinence or tongue bite. Pt reports being
unable to have a conversation during this time period but she
felt "somewhat aware of something going on around me". Daughter
then called her father who recommended calling EMS. Daughter
reports episode stopped when EMS arrived and had lasted about 10
minutes.

En route to the hospital, pt had a recurrent episode and per
EMS/ED pt was "verbally responsive during shaking spell". 
Further
details unclear. This again lasted ~10 minutes and then 
resolved.
Pt then had a recurrent episode in the ED observed by staff 
where
"patient is not verbally interactive. Has twitching of arms and
face and moves eyes. But able to respond to some commands."
Neurology was then consulted.

At the time of my assessment, pt had returned to her baseline. 
No
abnormal movements were observed and she had no complaints. She
has not had any recent fevers or headache. Her last event was in
___. 

Regarding her neurologic history, her events are as such:

(1) Episodes with memory lapses
(2) Episodes with difficulty talking or inability to talk 
(3) Episodes of leg stiffening eye deviation and pelvic
thrusting. During one episode in past, awareness was maintained. 

(4) Numbness around mouth and left arm and left arm pain which 
progresses to difficulty talking, generalized shaking, eye
fluttering. She is able to follow commands.

Potential Triggers:
(1) C/o feeling off when has menses - weak and tired. She had 
one
of these when at recent gyn visit for uterine fibroids
(2) Stress - had event on day of gyn surgery in past 

Prior Work-Up:
LP (___): Routine studies, ACE, MS profile, cytology negative

MRI Brain +/- (___):
1. 4 mm linear area of enhancement within the left frontal lobe,
with subtle possible FLAIR hyperintensity and magnetic
susceptibility, is incompletely evaluated secondary to extensive
motion artifact (17;17).  Attention on close interval followup 
or
repeat study when patient is able to tolerate exam, is 
recommended, to exclude a focus of metastases.  No other 
definite
concerning lesions identified. 
2. No acute intracranial abnormalities identified. 

EEG (___):
Normal extended routine EEG, mostly in drowsiness and sleep.
There were no areas of prominent focal slowing, and there were 
no
epileptiform features. A tachycardia was noted. 

She has never been on AEDs. She was recommended to have LTM in
___ however she did not arrange this.

 
Past Medical History:
ALLERGIC RHINITIS                                               
FIBROMYALGIA                                                    
HERPES SIMPLEX                                                  
LOW BACK PAIN                                                   
BREAST REDUCTION                                                
BREAST BIOPSY                                                   
DYSPHONIA                                                       
ATYPICAL DUCTAL HYPERPLASIA                                     
SYSTEMIC LUPUS ERYTHEMATOSUS (unclear diagnosis per records and
patient)   
Paroxysmal events     
 
Social History:
___
Family History:
Relative  Status    Age Problem              Comments           
Mother    ___      MULTIPLE MYELOMA                        

MGF       Deceased      MYOCARDIAL                              
                        INFARCTION                              

Father    Living        DIABETES ___                       
                        HYPERTENSION 
Daughter and son had febrile seizures.     
 
Physical Exam:
Vitals: 98.2 94 115/64 16 100% RA 
General: NAD, resting in bed
HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained, able to say ___
forwards and backwards. Recalls a coherent history. Speech is
fluent with full sentences, intact repetition, and intact verbal
comprehension. Hypophonic. Content of speech demonstrates intact
naming (high and low frequency) and no paraphasias. Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Ambulates independently in a stable manner.

 
Pertinent Results:
___ 04:40AM BLOOD WBC-5.8 RBC-4.05 Hgb-11.7 Hct-35.7 MCV-88 
MCH-28.9 MCHC-32.8 RDW-12.3 RDWSD-39.7 Plt ___
___ 12:30PM BLOOD WBC-5.2 RBC-3.95 Hgb-11.2 Hct-33.9* 
MCV-86 MCH-28.4 MCHC-33.0 RDW-12.0 RDWSD-37.9 Plt ___
___ 12:30PM BLOOD Neuts-42.2 ___ Monos-8.9 Eos-0.8* 
Baso-0.8 Im ___ AbsNeut-2.19 AbsLymp-2.44 AbsMono-0.46 
AbsEos-0.04 AbsBaso-0.04
___ 04:40AM BLOOD Plt ___
___ 12:30PM BLOOD Plt ___
___ 04:40AM BLOOD Glucose-83 UreaN-14 Creat-0.7 Na-137 
K-3.9 Cl-99 HCO3-25 AnGap-17
___ 12:30PM BLOOD Glucose-100 UreaN-11 Creat-0.7 Na-135 
K-3.8 Cl-98 HCO3-26 AnGap-15
___ 12:30PM BLOOD ALT-22 AST-23 AlkPhos-69 TotBili-0.7
___ 12:30PM BLOOD Albumin-4.0 Calcium-9.1 Phos-2.9 Mg-1.9
___ 12:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

EEG ___: IMPRESSION: This is an abnormal video-EEG 
monitoring session because of 3  prolonged ___ minutes) 
clinical events of side-to-side head shaking and irregular 
asynchronous floppy jerking of both arms, often with eyes 
closed, or  with eyes open and repetitive blinking. She is 
unresponsive or has slowed  responses during the events. EEG 
during these events showed only movement and  electrode 
artifact, with no ictal discharges; normal posterior dominant 
rhythm  is seen during and immediately following the events. 
Clinically and  electrographically, these are consistent with 
nonepileptic psychogenic events. 
No electrographic seizures or epileptiform discharges are 
present. 

EEG ___: IMPRESSION: This is an abnormal video-EEG 
monitoring session because of a  single prolonged event 
characterized by side-to-side head shaking, irregular  
asynchronous jerking of both arms, repetitive blinking, upward 
eye deviation,  and slowed response to questions, lasting a 
total of 8 minutes. Aside for  movement artifact, no other 
electrographic correlate is seen. These findings  are consistent 
with a psychogenic nonepileptic seizure. Otherwise, the waking  
background consists of a normal alpha frequency posterior 
dominant rhythm. No 
electrographic seizures or epileptiform discharges are present. 

EEG ___: IMPRESSION: This is a normal video-EEG monitoring 
session. There are no  focal, lateralizing, epileptiform 
features in this recording. 

 
Brief Hospital Course:
 ___ woman PMHx atypical ductal hyperplasia, 
fibromyalgia and possible lupus (unclear diagnosis per records 
and patient) and recurrent paroxysmal events since
___ who presents to the ___ ED with recurrent paroxysmal 
events, diagnosed with PNES this admission.

# PNES:
- She was admitted in the setting of events (as per HPI) prior 
to neuropsychiatric appointment.  She was admitted to the BI for 
event capture and formal diagnosis.  She was established on 
cvEEG with multiple typical events captured over several days.  
As per the EEG report she had "prolonged ___ minutes) clinical 
events of side-to-side head shaking and irregular asynchronous 
floppy jerking of both arms, often with eyes closed, or  with 
eyes open and repetitive blinking. She is unresponsive or has 
slowed  responses during the events.".  Remainder of EEG benign. 
 

The capture typical events were felt to be sufficient to 
diagnose her with Psychogenic Non-epileptic Seizures or events.  
This was discussed with the patient extensively.  The 
alternative management of this (as compared to epileptic 
seizures) were discussed- as was the importance of 
multidisciplinary outpatient follow-up.  She will follow-up with 
Neurology and Psychiatry (___) to help manage her care.  

As per ___ Law, she cannot drive for 6 months following 
last event.  This was discussed with good understanding.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyclobenzaprine 5 mg PO BID:PRN muscle spasm/pain 
2. DULoxetine 90 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. Pregabalin 100 mg PO TID 
5. TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
6. TraZODone 50 mg PO QHS:PRN insomnia 
7. ValACYclovir ___ mg PO Q12HRS FOR 1 DAY PRN COLD SORES Cold 
Sores 
8. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
9. Vitamin D 5000 UNIT PO 1X/WEEK (MO) 
10. Ferrous GLUCONATE 324 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Memantine 28 mg PO DAILY Take as directed by prescribing 
physician 
13. Omeprazole 20 mg PO DAILY 
14. Lidocaine 5% Ointment 1 Appl TP BID:PRN pain 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Cyclobenzaprine 5 mg PO BID:PRN muscle spasm/pain  
3.  DULoxetine 90 mg PO DAILY  
4.  Ferrous GLUCONATE 324 mg PO DAILY  
5.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
6.  Lidocaine 5% Ointment 1 Appl TP BID:PRN pain  
7.  Memantine 28 mg PO DAILY Take as directed by prescribing 
physician  
8.  Multivitamins 1 TAB PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Pregabalin 100 mg PO TID  
11.  TraMADol 50 mg PO Q8H:PRN Pain - Moderate  
12.  TraZODone 50 mg PO QHS:PRN insomnia  
13.  ValACYclovir ___ mg PO Q12HRS FOR 1 DAY PRN COLD SORES 
Cold Sores  
14.  Vitamin D 5000 UNIT PO 1X/WEEK (MO)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non-Epileptic Events

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
   You were admitted to ___ for evaluation of multiple events 
of limb jerking and altered awareness.  The hopes of this 
admission were to determine whether these events were Epileptic 
Seizures or Non-Epileptic Events, as the treatment of these two 
things is different.  You evaluated by the Neurology team and 
monitored on EEG (a test which looks at the brain's electrical 
activity as part of seizure detection).
   Fortunately, your EEG did not show evidence of seizures or 
seizure like activity.  Your doctors feel ___ have ___ 
Non-epileptic events (PNEE).  These are a "stress response", 
which can sometimes look similar to seizures, but are different.
   Psychogenic Non-epileptic events are caused by social and 
psychiologic stress.  They are best treated by outpatient 
Neurology and Psychiatry to help address the underlying issues.  
For this, your doctors recommend ___ make an appointment to see 
a psychiatrist (___).
    Also, please know that according to ___ Law you 
cannot drive for 6 months following your last event.
    It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___